US05958373
2,3-Bis(1,4,7,10-tetraazacyclododecan-1-yl)butan-1,4-dioic acid
To an aqueous solution of 1,4,7,10-tetraazacyclododecane (100 g, 580 mmol) and lithium hydroxide (5.2 g, 216 mmol) was added 2,3-dibromosuccinic acid (15.0 g, 54 mmol). After stirring at 60° C. for 3 days, the solution was cooled to ambient temperature and applied on an AG1-X8 anion exchange column [500 mL (OH-form)], the column was washed with water (1 L) and the product was eluted with 1M CH3COOH. Further purification by cation exhange chromatography on a AG5OW-X8 column [100 mL (H+form)] yielded 4.0 g (16%) of the title product as a white powder. 1H NMR (D2O) δ 2.4-3.0 (m, 32H), 3.2 (2H). 13C NMR (D2O) 40.4, 40.7, 42.9, 44.7, 61.5, 174.0. MS (FAB): m/e 459.3.

reactant | 1,4,7,10-tetraazacyclododecane | 580 mmol, 100 g | N1CCNCCNCCNCC1 | C8H20N4
reactant | lithium hydroxide | 216 mmol, 5.2 g | [OH-].[Li+]
reactant | 2,3-dibromosuccinic acid | 54 mmol, 15.0 g | BrC(C(=O)O)C(C(=O)O)Br | C4H4Br2O4
product | 2,3-Bis(1,4,7,10-tetraazacyclododecan-1-yl)butan-1,4-dioic acid | 4.0 g, 16% | N1(CCNCCNCCNCC1)C(C(=O)O)C(C(=O)O)N1CCNCCNCCNCC1 | C20H42N8O4
